US05191071
Preparation of isopropyl D-glucopyranoside
The title compound was prepared in quantitative yield by the procedure described in example 10 using isopropanol (2000 ml, 26 mol) and glucose (500 g, 2.78 mol).

reactant | isopropanol | 26 mol, 2000 ml | C(C)(C)O | C3H8O
reactant | glucose | 2.78 mol, 500 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | isopropyl D-glucopyranoside | quantitative yield | O(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C(C)C | C9H18O6
